US05258382
Preparation of 2-(4-bromo 2-fluorobenzyl)-4-carbamoylmethyl-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid ethyl ester:
A mixture of 2-(4-bromo-2-fluorobenzyl)-4-ethoxycarbonyl-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-acetic acid (21.4 g), N-hydroxysuccinimide (5.8 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (10.5 g) in dichloromethane (150 ml) was stirred at 25° C. for 1 hour, and 7.8% (w/w) ammonia in acetonitrile (40 ml) was added. The resulting mixture was stirred at 25° C. for 1 hour, poured into 5% hydrochloric acid, and extracted with dichloromethane. The extracts were dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (18.5 g, 86.4%) as colorless crystals, mp 190°-192° C.

reactant | 2-(4-bromo-2-fluorobenzyl)-4-ethoxycarbonyl-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-acetic acid | 21.4 g | BrC1=CC(=C(CN2C(C=3N(C(C2=O)(CC(=O)O)C(=O)OCC)C=CC3)=O)C=C1)F | C19H16BrFN2O6
reactant | N-hydroxysuccinimide | 5.8 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 10.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonia | N | H3N
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-(4-bromo 2-fluorobenzyl)-4-carbamoylmethyl-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid ethyl ester | 18.5 g, 86.4% | C(C)OC(=O)C1(C(N(C(C=2N1C=CC2)=O)CC2=C(C=C(C=C2)Br)F)=O)CC(N)=O | C19H17BrFN3O5
